US05330678
In 30 ml of dichloromethane, 3 g of 6-hydroxy-2-naphthoic acid and 2.4 g oftriethylamine were dissolved. To this solution were added 4.4 g of 4-octyloxybenzoic acid chloride and 0.2 g of dimethylaminopyridine, and the solution was stirred for about 20 hours at an ambient temperature. A diluted hydrochloric acid solution was added to the solution and the organic layer in the mixed solution was separated by means of a separatingfunnel. After the solvent was distilled off, the residue was washed with n-hexane and dried to obtain 5.9 g of 6-(4-octyloxyphenylcarbonyloxy)-2-naphthoic acid. The compound was added in 10 g of thionyl chloride to dissolve, and a very small amount of N,N-dimethyl formamide was added to the solution and the solution was refluxed for 4 hours. An excess amount of thionyl chloride was distilled off to obtain 5.7 g of the titled compound.

reactant | 6-hydroxy-2-naphthoic acid | 3 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | 4-octyloxybenzoic acid chloride | 4.4 g | C(CCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-(4-octyloxyphenylcarbonyloxy)-2-naphthoic acid | 5.9 g | C(CCCCCCC)OC1=CC=C(C=C1)C(=O)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C26H28O5
